US05387684
Carbon tetrachloride (4 ml) was added to ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate (0.300 g, 0.835 mmol) as obtained in Reference Example 4, and the mixture was stirred. Thereto were added N-bromosuccinimide (0.149 g, 0.835 mmol) and azobisisobutyronitrile (14 mg, 0.0835 mmol), and the mixture was refluxed under heating for 3.5 hours. After cooling, it was filtered, and the cake was washed twice with dichloromethane (2.5 ml) and the filtrate was concentrated. The residue was then dissolved in DMF (1 ml) and added to a solution obtained by adding sodium hydride (27 mg, 0.668 mmol) to 7-methyl-2-propyl-1H-imidazo[4,5-b]pyridine (0.117 g, 0.668 mmol) in DMF (2 ml) and stirring the solution for 30 minutes. The mixture was stirred at room temperature for 30 minutes, concentrated, and partitioned by ethyl acetate (5 ml) and water (5 ml). The organic layer was washed twice with water (5 ml), dried over magnesium sulfate, and then filtered. The filtrate was concentrated and subjected to flash chromatography on silica gel using a mixed solvent of hexane/ethyl acetate (2:3), whereby 70 mg of 3-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine was obtained.

reactant | ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate | 0.835 mmol, 0.300 g | BrC=1N(N=C2C=CC(=CC12)C)C1=C(C(=O)OCC)C=CC=C1 | C17H15BrN2O2
reactant | N-bromosuccinimide | 0.835 mmol, 0.149 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.0835 mmol, 14 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium hydride | 0.668 mmol, 27 mg | [H-].[Na+]
reactant | 7-methyl-2-propyl-1H-imidazo[4,5-b]pyridine | 0.668 mmol, 0.117 g | CC1=C2C(=NC=C1)N=C(N2)CCC | C10H13N3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Carbon tetrachloride | 4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | 70 mg | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC=2C1=NC=CC2C)CCC)C2=C(C=CC=C2)C(=O)OCC | C27H26BrN5O2
